US07138408B2
N-Benzyl-9-(3-chloro-2,6-difluorobenzyl)-N-hydroxy-9H-β-carboline-3-carboxamide
The title compound is prepared by coupling of 9-(3-chloro-2,6-difluorobenzyl)-9H-β-carboline-3-carboxylic acid and N-benzyl hydroxylamine hydrochloride under conditions similar to those provided in step (b) of example 7.

reactant | 9-(3-chloro-2,6-difluorobenzyl)-9H-β-carboline-3-carboxylic acid | ClC=1C(=C(CN2C3=CC=CC=C3C=3C=C(N=CC23)C(=O)O)C(=CC1)F)F | C19H11ClF2N2O2
reactant | N-benzyl hydroxylamine hydrochloride | Cl.C(C1=CC=CC=C1)NO
product | N-Benzyl-9-(3-chloro-2,6-difluorobenzyl)-N-hydroxy-9H-β-carboline-3-carboxamide | C(C1=CC=CC=C1)N(C(=O)C=1N=CC=2N(C3=CC=CC=C3C2C1)CC1=C(C(=CC=C1F)Cl)F)O | C26H18ClF2N3O2
